US05250517
100 mg (0.13 mmol) of t-butoxycarbonyl [2-[(RS)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]- 2 imidazol-4-ylethyl]carbamoyl]-4-phenylbutyramido]ethyl]glycine t-butyl ester were dissolved in 2 ml of acetic acid and stirred at room temperature for 3 hours with 4 ml of 1N hydrochloric acid/acetic acid. Thereafter, the reaction mixture was evaporated under reduced pressure and the residue was digested with ether and filtered off, to give N-[2-[(RS)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol 4-ylethyl]carbamoyl]-4-phenylbutyramido]ethyl]glycine dihydro chloride as a powder, MS: 681 (M+H)+.

reactant | t-butoxycarbonyl [2-[(RS)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]- 2 imidazol-4-ylethyl]carbamoyl]-4-phenylbutyramido]ethyl]glycine t-butyl ester | 0.13 mmol, 100 mg | C(C)(C)(C)OC(CN(CCNC(CC(CC1=CC=CC=C1)C(N[C@@H](CC=1N=CNC1)C(N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)=O)=O)=O)C(=O)OC(C)(C)C)=O | C46H72N6O8
reactant | hydrochloric acid acetic acid | 1N, 4 ml | Cl.C(C)(=O)O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-[2-[(RS)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol 4-ylethyl]carbamoyl]-4-phenylbutyramido]ethyl]glycine dihydro chloride | Cl.Cl.C1(CCCCC1)C[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)C(CC(=O)NCCNCC(=O)O)CC1=CC=CC=C1 | InChI=1S/C37H56N6O6.2ClH/c1-4-28(25(2)3)19-33(44)31(18-27-13-9-6-10-14-27)42-37(49)32(21-30-22-39-24-41-30)43-36(48)29(17-26-11-7-5-8-12-26)20-34(45)40-16-15-38-23-35(46)47;;/h4-5,7-8,11-12,22,24-25,27-29,31-33,38,44H,1,6,9-10,13-21,23H2,2-3H3,(H,39,41)(H,40,45)(H,42,49)(H,43,48)(H,46,47);2*1H/t28-,29?,31-,32-,33-;;/m0../s1
